US06949542B2
8-Chloro-4-{3-[2-(2-hydroxy-ethylamino)-6-methyl-pyrimidin-4-yl]-phenyl}-7-methyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester (Example J22) (128 mg, 0.5 mmol) and 3-{3-[2-(2-hydroxy-ethylamino)-6-methyl-pyrimidin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester (Example K50) (251 mg, 0.55 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (136 mg).

reactant | (2-amino-4-chloro-5-methyl-phenyl)-carbamic acid tert-butyl ester | 0.5 mmol, 128 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)N)=O | C12H17ClN2O2
reactant | 3-{3-[2-(2-hydroxy-ethylamino)-6-methyl-pyrimidin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester | 0.55 mmol, 251 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC(=NC(=C1)C)NCCO)=O | C20H25N3O4
product | 8-Chloro-4-{3-[2-(2-hydroxy-ethylamino)-6-methyl-pyrimidin-4-yl]-phenyl}-7-methyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC(=NC(=C2)C)NCCO)=O)C1)C | C23H22ClN5O2
